US04343811
2-Methyl-2-[2-methyl-3-(2-phenyl-ethyl)-1-propyl-1H-indole-5-yloxy]-propanoic acid ethylester
The above compound was prepared from 2-methyl-3-(2-phenyl-ethyl)-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 2-methyl-3-(2-phenyl-ethyl)-1-propyl-1H-indole-5-ol | CC=1N(C2=CC=C(C=C2C1CCC1=CC=CC=C1)O)CCC | C20H23NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-Methyl-2-[2-methyl-3-(2-phenyl-ethyl)-1-propyl-1H-indole-5-yloxy]-propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(N(C2=CC1)CCC)C)CCC1=CC=CC=C1)C)=O | C26H33NO3
